US05459138
EXAMPLE 18: 4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1- DIOXIDE
3.3 cm3 of formic acid and 6.6 cm3 of acetic anhydride are kept stirring at 50° C. for 15 minutes. 1 g of 4-aminopyridine-3-sulfonamide (Preparation 2) is added to this solution and the reaction mixture is brought to reflux for 2 hours. After cooling, the crystals obtained are collected on a filter, washed with a small amount of acetic acid and then with diethyl ether and dried.

reactant | acetic anhydride | 6.6 cm3 | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-aminopyridine-3-sulfonamide | 1 g | NC1=C(C=NC=C1)S(=O)(=O)N | C5H7N3O2S
solvent | formic acid | 3.3 cm3 | C(=O)O | CH2O2
product | 4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1- DIOXIDE | S1(N=CNC2=C1C=NC=C2)(=O)=O | C6H5N3O2S
